US07790709B2
Preparation of (E)-N-(2-Ethoxy-3-methoxy-benzyl)-N-methyl-3-[3-(2-morpholin-4-yl-ethyl)-2-oxo-1,2,3,4-tetrahydro-pyrido[2,3-d]pyrimidin-6-yl]acrylamide hydrochloride
According to the procedure of Example 1, except substituting (E)-3-[3-(2-morpholin-4-yl-ethyl)-2-oxo-1,2,3,4-tetrahydro-pyrido[2,3-d]pyrimidin-6-yl]acrylic acid hydrochloride for the (E)-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)acrylic acid hydrochloride, and substituting (2-ethoxy-3-methoxy-benzyl)methylamine for the methyl-(1-propyl-naphthalen-2-ylmethyl)amine, the title compound (155 mg, 37%) was prepared as a off-white solid: 1H NMR (300 MHz, DMSO-d6) δ 10.15-10.13 (m, 2H), 8.40-8.35 (m, 1H), 8.00-7.92 (m, 1H), 7.54-7.42 (m, 1H), 7.25-7.20 (m, 1H), 7.13-6.68 (m, 2H), 6.66-6.61 (m, 1H), 5.11 (br s, 1H), 4.78-4.63 (m, 2H), 4.57-4.52 (m, 2H), 4.01-3.95 (m, 4H), 3.82-3.58 (m, 9H), 3.37-3.35 (m, 2H), 3.20-2.86 (m, 5H), 1.28-1.18 (m, 3H); MS (ESI) m/e 510 (M+H)+.

reactant | (E)-3-[3-(2-morpholin-4-yl-ethyl)-2-oxo-1,2,3,4-tetrahydro-pyrido[2,3-d]pyrimidin-6-yl]acrylic acid hydrochloride | Cl.N1(CCOCC1)CCN1C(NC2=C(C1)C=C(C=N2)/C=C/C(=O)O)=O
reactant | (E)-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)acrylic acid hydrochloride | Cl.CN1CC(NC2=C(C1)C=C(C=N2)/C=C/C(=O)O)=O
reactant | (2-ethoxy-3-methoxy-benzyl)methylamine | C(C)OC1=C(CCN)C=CC=C1OC | C11H17NO2
reactant | methyl-(1-propyl-naphthalen-2-ylmethyl)amine | CNCC1=C(C2=CC=CC=C2C=C1)CCC | C15H19N
product | (E)-N-(2-Ethoxy-3-methoxy-benzyl)-N-methyl-3-[3-(2-morpholin-4-yl-ethyl)-2-oxo-1,2,3,4-tetrahydro-pyrido[2,3-d]pyrimidin-6-yl]acrylamide hydrochloride | 155 mg, 37% | Cl.C(C)OC1=C(CN(C(\C=C\C2=CC3=C(NC(N(C3)CCN3CCOCC3)=O)N=C2)=O)C)C=CC=C1OC | InChI=1S/C27H35N5O5.ClH/c1-4-37-25-21(6-5-7-23(25)35-3)18-30(2)24(33)9-8-20-16-22-19-32(27(34)29-26(22)28-17-20)11-10-31-12-14-36-15-13-31;/h5-9,16-17H,4,10-15,18-19H2,1-3H3,(H,28,29,34);1H/b9-8+;
